US09079910B2
2.2 361 μl (2.61 mmol) of trimethylsilylacetylene and 402 μl (2.90 mmol) of triethylamine were added to a suspension, kept under nitrogen, of 500 mg (1.45 mmol) of tert-butyl 5-iodopyrrolo[2,3-d]pyrimidine-7-carboxylate, 19.5 mg (0.028 mmol) of bis(triphenylphosphine)palladium(II) chloride and 11.2 mg (0.059 mmol) of copper(I) iodide in 5 ml of THF, and the mixture was stirred at room temperature for 18 hours. Nitrogen was then passed through the reaction mixture for 10 minutes, and 4.4 ml of a 1 M solution of tetrabutylammonium fluoride in THF were subsequently added. After stirring at room temperature for three hours, 309 mg (2.32 mmol) of benzyl azide were added, and the reaction mixture was stirred at room temperature for 40 hours under nitrogen. The reaction mixture was partitioned between water and ethyl acetate. The organic phase was dried over sodium sulfate and evaporated. The residue was purified by preparative HPLC, giving tert-butyl 5-(1-benzyl-1H-1,2,3-triazol-4-yl)pyrrolo[2,3-d]pyrimidine-7-carboxylate as colourless solid; HPLC/MS: 2.23 min, [M+H] 377.

reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 2.90 mmol, 402 μl | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 5-iodopyrrolo[2,3-d]pyrimidine-7-carboxylate | 1.45 mmol, 500 mg | IC1=CN(C=2N=CN=CC21)C(=O)OC(C)(C)C | C11H12IN3O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | benzyl azide | 2.32 mmol, 309 mg | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.028 mmol, 19.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.059 mmol, 11.2 mg | [Cu]I
product | tert-butyl 5-(1-benzyl-1H-1,2,3-triazol-4-yl)pyrrolo[2,3-d]pyrimidine-7-carboxylate | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CN(C=2N=CN=CC21)C(=O)OC(C)(C)C | C20H20N6O2
